US04017515
2-Methoxyimino-2-(thien-2-yl)acetic acid (syn isomer)
2N-Sodium hydroxide (8.27 ml.) was added to a solution of methyl 2-methoxylimino-2-(thien-2-yl)-acetate (syn-isomer) (3.28 g.) in methanol (50 ml.) and the solution was stirred at room temperature for 18 hours. Water (20 ml.) was added and the solution was evaporated to remove methanol, and then washed with ethyl acetate. The pH of the solution under ethyl acetate (50 ml.) was altered to 2 with 2N-hydrochloric acid. The layers were separated and the aqueous phase was extracted with ethyl acetate. The organic extracts were combined, dried, and evaporated to a white solid (2.58 g.). This was crystallised from cyclohexane, producing the title compound (2.23 g., 73%), m.p. 105.5°, λmax.EtOH 289 nm (λ 10,100), λinf. 262 and 271 nm. (ε 7,750 and 8.150), τ (CDCl3) values include 0.32 (OH) and 5.92 (OCH3).

reactant | Sodium hydroxide | 8.27 ml | [OH-].[Na+]
reactant | methyl 2-methoxylimino-2-(thien-2-yl)-acetate | 3.28 g | O(C)N=C(C(=O)OC)C=1SC=CC1 | C8H9NO3S
reactant | Water | 20 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-Methoxyimino-2-(thien-2-yl)acetic acid | 2.23 g, 73% | CON=C(C(=O)O)C=1SC=CC1 | C7H7NO3S
